US04414372
To a stirred solution of 1.74 g (2 ml, 10 mmoles) of MTS and 1 ml of 1 M tris(dimethylamino)sulfonium difluorotrimethylsilicate/acetonitrile in 20 ml of anhydrous THF under argon was added dropwise a mixture of 5 g (50 mmoles) of MMA and 10.1 g (50 mmoles) of 2-trimethylsiloxyethyl methacrylate (prepared by the reaction of chlorotrimethylsilane with 2-hydroxyethyl methacrylate in the presence of triethylamine). Exothermic copolymerization occurred. After stirring for 1 h at ambient temperature, 10 ml of methanol was added, and the solution was refluxed for 1 h. Evaporation in vacuo gave 12.79 g of copolymer, the NMR spectrum of which showed it to contain 11% of the residual trimethylsilyl protecting group due to incomplete methanolysis. To complete methanolysis, 6 g of the copolymer was stirred at reflux for 1 h with 20 ml of methanol, 20 ml of THF and 1 ml of 1 M tetrabutylammonium fluoride/THF. Evaporation of the solution in vacuo gave 5.6 g of poly(MMA/2-hydroxyethyl methacrylate) copolymer. GPC: Mn 1400, Mw 1500, D 1.07 (theor. M.W. 1150). 220 MHz NMR: 1:1 mole ratio of MMA and hydroxyethyl methacrylate. Hydroxyl number: 233, 246 (equivalent to 49 mole % hydroxyethyl methacrylate polymer repeat units and 51 mole % MMA polymer repeat units.

reactant | methanol | 20 ml | CO | CH4O
reactant | tetrabutylammonium fluoride THF | 1 M, 1 ml | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC.C1CCOC1
reactant | THF | 20 ml | C1CCOC1 | C4H8O
product | 2-hydroxyethyl methacrylate | C(C(=C)C)(=O)OCCO | C6H10O3
